US05726182
Step 275a 4-t-butoxy-2,3,6-trifluoro-5-hydroxypyridine
A 11.16 g (54.39 mmol) sample of 4-t-butoxy-2,3,6-trifluoropyridine, from Example 253 step b above, was dissolved in 50 mL of THF, and the solution was cooled to -78° C. To this solution was added LDA (65.6 mmol) with stirring for 30 min, during which a solid preciptated. To this mixture was added 7.5 mL of trimethoxyborane, with stirring for 25 min at -78° C. To this mixture was added 10 mL of acetic acid, and the mixture was stirred and allowed to warm to room temperature. Next was added 100 mL of 30% hydrogen peroxide and 100 mL of 2N sodium hydroxide while cooling in an ice bath. The mixture was then stirred at room temperature for 16 hours, and quenched with saturated NH4Cl solution. The mixture was extracted with ether, and the extract was washed with brine and dried over MgSO4. The solvent was removed under vacuum, and the residue was purified by flash chromatography on silica gel, eluting with 1:8 ethyl acetate:hexane. Removal of the solvent gave 9.769 g of the title product as a colorless liquid.

reactant | 4-t-butoxy-2,3,6-trifluoropyridine | C(C)(C)(C)OC1=C(C(=NC(=C1)F)F)F | C9H10F3NO
reactant | LDA | 65.6 mmol | [Li+].CC(C)[N-]C(C)C
reactant | trimethoxyborane | 7.5 mL | COB(OC)OC | C3H9BO3
reactant | hydrogen peroxide | 100 mL | OO | H2O2
reactant | sodium hydroxide | 2N, 100 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-t-butoxy-2,3,6-trifluoro-5-hydroxypyridine | 9.769 g | C(C)(C)(C)OC1=C(C(=NC(=C1O)F)F)F | C9H10F3NO2
